US05109012
5-Amino-4-ethoxycarbonyl-1-(4-trifluoromethyl-2-nitrophenyl)-1H-pyrazole, was treated with bromoform in a similar manner to Example 11, to give ethyl 5-bromo-1-(4-trifluoromethyl-2-nitrophenyl)-1H-pyrazole-4-carboxylate. This was then reduced with zirconium borohydride to give [5-bromo-1-(4-trifluoromethyl-2-nitrophenyl)-1H-pyrazol-4-yl]methanol, which was oxidised in a similar manner to that described in Example 4, to give 5-bromo-1-(4-trifluoromethyl-2-nitrophenyl)-1H-pyrazole-4-carboxaldehyde, which was converted, as described in Example 1, to 5-bromo-1-(4-trifluoromethyl-2-nitrophenyl)-4-[(2-amino-1,2-dicyanoethenylimino)-methyl]-1H-pyrazole, mp 195°-198°, which was cyclised to give 5-bromo-1-(4-trifluoromethyl-2-nitrophenyl)-4-(4,5-dicyano-1H-imidazol-2-yl)-1H-pyrazole, m.p. 86°-90°. (Compound 34).

reactant | 5-Amino-4-ethoxycarbonyl-1-(4-trifluoromethyl-2-nitrophenyl)-1H-pyrazole | NC1=C(C=NN1C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])C(=O)OCC | C13H11F3N4O4
reactant | bromoform | C(Br)(Br)Br | CHBr3
product | ethyl 5-bromo-1-(4-trifluoromethyl-2-nitrophenyl)-1H-pyrazole-4-carboxylate | BrC1=C(C=NN1C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])C(=O)OCC | C13H9BrF3N3O4
